US07960395B2
e) 5-{[1-(3-Fluoropyridin-4-yl)ethyl]thio}-7-{[(1R)-1-(hydroxymethyl)-3-methylbutyl]amino}[1,3]thiazolo[4,5-d]pyrimidin-2(3H)-one
The title compound was prepared starting from (2R)-2-[(5-{[1-(3-fluoropyridin-4-yl)ethyl]thio}-2-methoxy[1,3]thiazolo[4,5-d]pyrimidin-7-yl)amino]-4-methylpentan-1-ol from the previous step using General method D, except that the reaction mixture was stirred at 50° C. for 2 h. After complete reaction the reaction mixture was diluted with sat. sodium bicarbonate aq. and water (1:1) and extracted with DCM (three times). The combined organic extracts were dried over sodium sulphate and concentrated in vacuo. The product was purified by flash column chromatography (eluent heptane:ethyl acetate gradient) to yield the title compound as a mixture of diastereomers (194 mg).

reactant | (2R)-2-[(5-{[1-(3-fluoropyridin-4-yl)ethyl]thio}-2-methoxy[1,3]thiazolo[4,5-d]pyrimidin-7-yl)amino]-4-methylpentan-1-ol | FC=1C=NC=CC1C(C)SC=1N=C(C2=C(N1)N=C(S2)OC)N[C@@H](CO)CC(C)C | C19H24FN5O2S2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | 5-{[1-(3-Fluoropyridin-4-yl)ethyl]thio}-7-{[(1R)-1-(hydroxymethyl)-3-methylbutyl]amino}[1,3]thiazolo[4,5-d]pyrimidin-2(3H)-one | FC=1C=NC=CC1C(C)SC=1N=C(C2=C(N1)NC(S2)=O)N[C@H](CC(C)C)CO | C18H22FN5O2S2
